US07456164B2
C-Phenyl-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetra-hydropyran-4-ylmethyl}-methanesulfonamide
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (200 mg, 0.628 mmol) and triethylamine (106 μL, 0.754 mmol) in anhydrous dichloromethane (8 mL) under nitrogen atmosphere was added dropwise a solution of α-toluenesulfonylchloride (143 mg, 0.754 mmol) in anhydrous dichloromethane (2 mL). After stirring overnight, the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with water, dried over magnesium sulphate, filtered and concentrated under reduced pressure to give the title compound (207 mg, 69%). 1H NMR (400 MHz, CDCl3) δ7.27-7.22 (m, 3H), 7.16-7.14 (m, 2H), 7.07 (d, 2H), 6.83 (d, 2H), 4.05 (s, 2H), 3.95 (t, 2H), 3.68-3.63 (m, 2H), 3.55 (t, 1H), 3.49-3.44 (m, 2H), 3.01 (d, 2H), 2.57 (t, 2H), 2.47 (s, 4H), 2.02-1.93 (m, 4H), 1.78-1.72 (m, 6H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.628 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.754 mmol, 106 μL | C(C)N(CC)CC | C6H15N
reactant | α-toluenesulfonylchloride | 0.754 mmol, 143 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | C-Phenyl-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetra-hydropyran-4-ylmethyl}-methanesulfonamide | 207 mg, 69% | C1(=CC=CC=C1)CS(=O)(=O)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H36N2O4S
